US08754226B2
A flask was charged with 1H-indazol-5-ol (0.89 g, 0.66 mmol), (R)-tert-butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (Preparation D; 0.2 g, 0.55 mmol), K2CO3 (0.092 g, 0.66 mmol), and DMSO (4 mL). The reaction was stirred at 130° C. overnight. Added water and extracted with ethyl acetate. The organic layers were combined, dried, filtered and concentrated. The residue was purified using silica gel column chromatography with 50-100% ethyl acetate in hexanes to provide (S)-tert-butyl 4-(3-(1H-indazol-5-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (0.198 g, 90% yield).

reactant | 1H-indazol-5-ol | 0.66 mmol, 0.89 g | N1N=CC2=CC(=CC=C12)O | C7H6N2O
reactant | (R)-tert-butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.55 mmol, 0.2 g | CS(=O)(=O)O[C@H]1C(N(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H26N2O6S
reactant | K2CO3 | 0.66 mmol, 0.092 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | (S)-tert-butyl 4-(3-(1H-indazol-5-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.198 g, 90% yield | N1N=CC2=CC(=CC=C12)O[C@@H]1C(N(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C21H28N4O4
